US09034880B2
Preparation of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)propyl)-1H-pyrido[4,3-b]indole (Compound 450)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, 2-methyl-5-(prop-1-en-2-yl)pyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 2-methyl-5-(prop-1-en-2-yl)pyridine | CC1=NC=C(C=C1)C(=C)C | C9H11N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)propyl)-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)C=2C=NC(=CC2)C)CC1 | C22H27N3
